US05602228
A mixture of anhydrous nickel chloride (50 mg, 0.39 mmol), sodium iodide (300 mg, 2 mmol), tri(2-methylphenyl)phosphite (300 mg, 0.85 mmol) in NMP (5 ml) was prepared in a glovebox and then stirred at 60° C. for 1 hour 50 minutes. To the resulting green solution was added activated zinc dust (1.5 g, 23 mmol) prepared in accordance with the procedure of Example 1 under helium. The mixture was stirred at 60° C. and 4-chlorotoluene (1 g, 7.9 mmol) was added. After 17 hours, the reaction temperature was raised to 80° C. and the mixture was stirred for another 7 hours. 4,4'-dimethylbiphenyl was obtained in 97% yield by gas chromatography analysis of the reaction mixture. The GC retention time of the dimer was the same as that of dimer obtained using a literature coupling method.

reactant | sodium iodide | 2 mmol, 300 mg | [I-].[Na+]
reactant | tri(2-methylphenyl)phosphite | 0.85 mmol, 300 mg | CC1=C(C=CC=C1)OP(OC1=C(C=CC=C1)C)OC1=C(C=CC=C1)C | C21H21O3P
reactant | 4-chlorotoluene | 7.9 mmol, 1 g | ClC1=CC=C(C=C1)C | C7H7Cl
reactant | NMP | 5 ml | CN1CCCC1=O | C5H9NO
catalyst | nickel chloride | 0.39 mmol, 50 mg | [Ni](Cl)Cl
catalyst | zinc | 23 mmol, 1.5 g | [Zn] | Zn
product | 4,4'-dimethylbiphenyl | 97% yield | CC1=CC=C(C=C1)C1=CC=C(C=C1)C | C14H14
